US09353108B2
K) Ethyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate
Triethylamine (3.26 g) was added to a mixture of ethyl 5-oxo-6-(piperidin-4-yl)-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride monohydrate (5.92 g) and 6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde (5.35 g) in THF (100 mL) at room temperature. The mixture was stirred at the same temperature under nitrogen atmosphere for 10 minutes. Sodium triacetoxyhydroborate (6.82 g) was added to the reaction mixture at room temperature. The mixture was stirred at the same temperature under nitrogen atmosphere for 16 hours. The mixture was quenched with saturated sodium hydrogen carbonate aqueous solution at room temperature and extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate then NH silica gel, hexane/ethyl acetate) to give the title compound (7.98 g)

reactant | Triethylamine | 3.26 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-oxo-6-(piperidin-4-yl)-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride monohydrate | 5.92 g | O.Cl.Cl.O=C1C=2C=C(C(=NC2CCN1C1CCNCC1)CCC)C(=O)OCC
reactant | 6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde | 5.35 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)C=O | C18H16F2O2
reactant | Sodium | [Na] | Na
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Ethyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 7.98 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OCC)=O | C37H43F2N3O4
